US07368578B2
To a solution of ethyl (2E)-3-{3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-2-propenoate (0.507 g) in tetrahydrofuran (50 mL) was added diisobutylaluminum hydride (0.95 M hexane solution, 7.0 mL) at room temperature, and the mixture was stirred at room temperature for 1 hr. Sodium sulfate decahydrate (2.14 g) was added to the reaction mixture, and the mixture was further stirred for 2 hrs. After removing the precipitate by filtration, the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give (2E)-3-{3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-2-propen-1-ol as colorless crystals from a fraction eluted with tetrahydrofuran-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless powder (0.300 g, yield 63%). melting point: 118-119° C.

reactant | ethyl (2E)-3-{3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-2-propenoate | 0.507 g | COC=1C=C(COC2=NN(C=C2/C=C/C(=O)OCC)C2=CC=C(C=C2)C(F)(F)F)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C34H30F3N3O6
reactant | diisobutylaluminum hydride | 0.95 M, 7.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium sulfate decahydrate | 2.14 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2E)-3-{3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzyl}oxy)-1-[4-(trifluoromethyl)phenyl]-1H-pyrazol-4-yl}-2-propen-1-ol | COC=1C=C(COC2=NN(C=C2/C=C/CO)C2=CC=C(C=C2)C(F)(F)F)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C32H28F3N3O5
